US07834013B2
[4-Methyl-2-(phenyloxy)-1,3-thiazol-5-yl]methanol (X-3a)
To a solution of ethyl 4-methyl-2-(phenyloxy)-1,3-thiazole-5-carboxylate (X-2a) (0.18 g, 0.687 mmol) in THF (3 mL) at 0° C. was added a solution of 1M LAH in THF (2.10 mL, 2.10 mmol). The mixture was stirred at 0° C. for 2 h. Water was added (1 mL) followed by a solution of 1M NaOH (1 mL) and water (1 mL). The mixture was filtered through a pad of Celite, and the Celite was washed with EtOAc. The filtrate was concentrated, and the crude material was purified by chromatography (EtOAc/hexanes) to give the title compound as a colorless oil (0.12 g, 80%). 1H NMR (400 MHz, CDCl3) δ 7.40 (t, J=8.0 Hz, 2H), 7.25 (m, 3H), 4.66 (s, 2H), 2.26 (s, 3H).

reactant | ethyl 4-methyl-2-(phenyloxy)-1,3-thiazole-5-carboxylate | 0.687 mmol, 0.18 g | CC=1N=C(SC1C(=O)OCC)OC1=CC=CC=C1 | C13H13NO3S
reactant | LAH | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | O | H2O
reactant | NaOH | 1M, 1 mL | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2.10 mmol, 2.10 mL | C1CCOC1 | C4H8O
product | [4-Methyl-2-(phenyloxy)-1,3-thiazol-5-yl]methanol | 0.12 g, 80% | CC=1N=C(SC1CO)OC1=CC=CC=C1 | C11H11NO2S
